US05688808
This compound was prepared by General Method 14 (EXAMPLE 191) from 3-nitrobenzeneboronic acid (0.47 g, 2.8 mmol), 4-bromo-2-ethylaniline (432 mg, 2.16 mmol), and (PPh3)4Pd (75 mg, 0.065 mmol) to afford 139 mg (20%) of 4-amino-3-ethyl-3'-nitrobiphenyl. Data for 4-amino-3-ethyl-3'-nitrobiphenyl: 1H NMR (400 MHz, acetone-d6) 8.38 (t, J=2.1, 1H), 8.08 (m, 1H), 8.00 (m, 1H), 7.66 (t, J=8.0, 1H), 7.45 (d, J=2.3, 1H), 7.39 (dd, J=8.3, 2.3 1H), 6.83 (d, J=8.3, 1H), 4.68 (br s, 2H).

reactant | 3-nitrobenzeneboronic acid | 2.8 mmol, 0.47 g | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
reactant | 4-bromo-2-ethylaniline | 2.16 mmol, 432 mg | BrC1=CC(=C(N)C=C1)CC | C8H10BrN
catalyst | (PPh3)4Pd | 0.065 mmol, 75 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-amino-3-ethyl-3'-nitrobiphenyl | 139 mg, 20% | NC1=C(C=C(C=C1)C1=CC(=CC=C1)[N+](=O)[O-])CC | C14H14N2O2
